US08034812B2
Production of N-[4-({2-[(cyclopropylcarbonyl)amino]imidazo[1,2-b]pyridazin-6-yl}oxy)phenyl]-5-methyl-1-phenyl-1H-pyrazole-3-carboxamide
Using 5-methyl-1-phenyl-1H-pyrazole-3-carboxylic acid (196 mg, 0.97 mmol), tetrahydrofuran (2.0 mL), N,N-dimethylformamide (30 μL, 0.39 mmol), oxalyl chloride (85 μL, 0.97 mmol), N-[6-(4-aminophenoxy)imidazo[1,2-b]pyridazin-2-yl]cyclopropanecarboxamide (200 mg, 0.65 mmol) and N,N-dimethylacetamide (4.0 mL), and in the same manner as in Example 255, the title compound (223 mg, 70%) was obtained as a white powder.

reactant | 5-methyl-1-phenyl-1H-pyrazole-3-carboxylic acid | 0.97 mmol, 196 mg | CC1=CC(=NN1C1=CC=CC=C1)C(=O)O | C11H10N2O2
reactant | N,N-dimethylformamide | 0.39 mmol, 30 μL | CN(C=O)C | C3H7NO
reactant | oxalyl chloride | 0.97 mmol, 85 μL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | N-[6-(4-aminophenoxy)imidazo[1,2-b]pyridazin-2-yl]cyclopropanecarboxamide | 0.65 mmol, 200 mg | NC1=CC=C(OC=2C=CC=3N(N2)C=C(N3)NC(=O)C3CC3)C=C1 | C16H15N5O2
solvent | N,N-dimethylacetamide | 4.0 mL | CN(C(C)=O)C | C4H9NO
solvent | tetrahydrofuran | 2.0 mL | O1CCCC1 | C4H8O
product | N-[4-({2-[(cyclopropylcarbonyl)amino]imidazo[1,2-b]pyridazin-6-yl}oxy)phenyl]-5-methyl-1-phenyl-1H-pyrazole-3-carboxamide | 223 mg, 70% | C1(CC1)C(=O)NC=1N=C2N(N=C(C=C2)OC2=CC=C(C=C2)NC(=O)C2=NN(C(=C2)C)C2=CC=CC=C2)C1 | C27H23N7O3
